US07521447B2
Step C: 2-{1-[2-(tert-Butyidimethylsilanyloxy)-2-methylpropyl]-1H-indazol-5-yloxy}-5-fluorobenzylamine:
To a cooled (0° C.) solution of 2-{1-[2-(tert-butyldimethylsilanyloxy)-2-methyl-propyl]-1H-indazol-5-yloxy}-5-fluorobenzonitrile (0.071 g, 0.162 mmol) in THF (2 mL) was added LAH (0.32 mL of 1M in THF). The solution was warmed to room temperature and stirred for 1 hour. The reaction mixture was cooled to 0° C. and quenched with water (12 μL), 3N NaOH (12 μL) and water (36 μL). The salts were removed by filtration and the filtrate was concentrated under reduced pressure and used in the next reaction without further purification.

reactant | 2-{1-[2-(tert-butyldimethylsilanyloxy)-2-methyl-propyl]-1H-indazol-5-yloxy}-5-fluorobenzonitrile | 0.162 mmol, 0.071 g | [Si](C)(C)(C(C)(C)C)OC(CN1N=CC2=CC(=CC=C12)OC1=C(C#N)C=C(C=C1)F)(C)C | C24H30FN3O2Si
reactant | LAH | 1M, 0.32 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-{1-[2-(tert-Butyidimethylsilanyloxy)-2-methylpropyl]-1H-indazol-5-yloxy}-5-fluorobenzylamine | [Si](C)(C)(C(C)(C)C)OC(CN1N=CC2=CC(=CC=C12)OC1=C(CN)C=C(C=C1)F)(C)C | C24H34FN3O2Si
